US07790720B2
16.3 Synthesis of methyl 4-[(benzylamino)methyl]-2-{4-[3-(2-methyl-1-pyrrolidinyl) propoxy]phenyl}-1,3-oxazole-5-carboxylate 99
A suspension of methyl 4-[(benzylamino)methyl]-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-5-carboxylate i94 (0.11 g, 0.27 mmol, 1 eq), 2-methylpyrrolidine (30 μl, 0.32 mmol, 1.2 eq) and potassium carbonate (0.15 g, 1.06 mmol, 4 eq) in acetonitrile (5 ml) is stirred at 110° C. overnight. The mixture is then poured into ethyl acetate (50 ml) and washed with water. The organic layer is dried over magnesium sulfate and concentrated under reduced pressure. Two successive purifications over silicagel (eluent: dichloromethane, methanol, ammonia 90/10/1) and one purification by preparative liquid chromatography (gradient: acetonitrile/water/trifluoroacetic acid 95:5:01 to 5:95:01) yield 6 mg of methyl 4-[(benzylamino)methyl]-2-{4-[3-(2-methyl-1-pyrrolidinyl)propoxy]phenyl}-1,3-oxazole-5-carboxylate 99.

reactant | methyl 4-[(benzylamino)methyl]-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-5-carboxylate | C(C1=CC=CC=C1)NCC=1N=C(OC1C(=O)OC)C1=CC=C(C=C1)OCCCCl | C22H23ClN2O4
reactant | 2-methylpyrrolidine | 0.32 mmol, 30 μl, 1.2 eq | CC1NCCC1 | C5H11N
reactant | potassium carbonate | 1.06 mmol, 0.15 g, 4 eq | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | methyl 4-[(benzylamino)methyl]-2-{4-[3-(2-methyl-1-pyrrolidinyl) propoxy]phenyl}-1,3-oxazole-5-carboxylate | C(C1=CC=CC=C1)NCC=1N=C(OC1C(=O)OC)C1=CC=C(C=C1)OCCCN1C(CCC1)C | C27H33N3O4
